data/oMe_Silver.jsonl
{"reaction_id": "NR-147_1-C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-CCCC(C)C_4-c1ccccc1_5-C(F)(F)F","name": "Morita-Baylis-Hillman Reaction","level": "medium","reactants_smiles": ["C(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=CC(=O)(c1ccccc1)","O=C([H])C(F)(F)F"],"products_smiles": ["C(=O)(c1ccccc1)C(C(C(F)(F)F)O)=C(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "N1CCN2CCC1CC2","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(=CC(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[N+]12CCN(CC1)CC2)[O-]","rationale": "The tertiary amine nucleophile attacks the β-position of the activated alkene due to strong electron withdrawal by the adjacent carbonyl, forming a stabilized zwitterionic enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C(C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CCCC(C)C)[N+]12CCN(CC1)CC2)C(C(F)(F)F)[O-])=O","rationale": "The enolate carbon, being nucleophilic and resonance-stabilized, attacks the electrophilic carbonyl carbon of the aldehyde, favored by the aldehyde’s high reactivity and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(=C(/C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CCCC(C)C)[N+]12CCN(CC1)CC2)C(C(F)(F)F)O)[O-]","rationale": "Proton transfer occurs to neutralize the alkoxide and generate a hydroxyl group, driven by the stability of the resulting alcohol and facilitated by the basic amine environment."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(c1ccccc1)C(C(C(F)(F)F)O)=C(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","rationale": "Elimination of the amine regenerates the catalyst and forms the conjugated alkene, favored by restoration of the carbonyl conjugation and relief of the zwitterionic intermediate’s charge separation."}],"description": "In the Morita–Baylis–Hillman reaction, the tertiary amine catalyst activates the electron-deficient alkene via nucleophilic addition, forming a zwitterionic enolate. This enolate then attacks the aldehyde, followed by proton transfer and elimination of the amine to yield the allylic alcohol product under mild conditions."}
{"reaction_id": "NR-113_1-C_2-CC_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C(F)(F)F_5-CCCC(C)C","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(C)#[N+][O-]","CC/C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)=C(/C(F)(F)F)CCCC(C)C"],"products_smiles": ["C1(C)=NOC(C(F)(F)F)(CCCC(C)C)C1(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)=NOC(C(F)(F)F)(CCCC(C)C)C1(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
{"reaction_id": "NR-129_1-C=C_2-Cc1ccccc1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["C=CBr","Cc1ccccc1[Mg]Br"],"products_smiles": ["C=CCc1ccccc1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](C=C)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to C=C."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](C=C)Cc1ccccc1","rationale": "The nucleophilic Cc1ccccc1–MgBr transfers Cc1ccccc1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "C=CCc1ccccc1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between C=C and Cc1ccccc1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
